### PR TITLE
[Merged by Bors] - feat(Combinatorics/Enumerative/Bell): sum over partition shapes

### PR DESCRIPTION
**Pull request by yuanyi-350**
Kill TODO in `Mathlib/Combinatorics/Enumerative/Bell.lean` which proves `Nat.bell` as a sum of `Multiset.bell` over partition shapes

---
Migrated from #37690

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/Enumerative/Bell.lean [hunk 1]
```diff
@@ -104,20 +104,43 @@ theorem bell_mul_eq (m : Multiset ℕ) :
...
+    simpa [c, hsplit, mul_assoc] using Multiset.bell_mul_eq m
+  have hm : m.sum ! * a ! = m.bell * a ! * c := by grind
+  have ha_mem : a ∈ (a ::ₘ m).toFinset.erase 0 := by simp [ha]
+  have hc : 0 < a ! * c := Nat.mul_pos (by positivity) <|
+    Nat.mul_pos (by simp [Nat.factorial_pos]) (by positivity)
+  apply Nat.eq_of_mul_eq_mul_right hc
+  calc
+    _ = (m.sum + a)! := by
+      have hq := Multiset.bell_mul_eq (a ::ₘ m)
+      rw [← Finset.mul_prod_erase _ _ ha_mem, ← hrest] at hq
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/Bell.lean]:
```suggestion
  have hc : 0 < a ! * c := Nat.mul_pos (by positivity) <|
    Nat.mul_pos (by simp [Nat.factorial_pos]) (by positivity)
  apply Nat.eq_of_mul_eq_mul_right hc
  calc
    _ = (m.sum + a)! := by
      have hq := Multiset.bell_mul_eq (a ::ₘ m)
      rw [← Finset.mul_prod_erase _ _ (a := a) (by simp [*]), ← hrest] at hq
```

File: Mathlib/Combinatorics/Enumerative/Bell.lean [hunk 2]
```diff
@@ -211,4 +228,83 @@ theorem bell_one : Nat.bell 1 = 1 := by
...
+  right_inv x := by grind
+
+/-- `Nat.bell n` is equal to the sum of `Multiset.bell m` over all multisets `m : Multiset ℕ` such
+that `m.sum = n`. -/
+theorem bell_eq_sum_partition (n : ℕ) : n.bell = ∑ p : n.Partition, p.parts.bell := by
+  refine Nat.strong_induction_on n ?_
+  intro n ih
+  cases n with
+  | zero => simp
+  | succ n =>
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/Bell.lean]:
```suggestion
  rintro (_ | n) ih
  \. simp
```

File: Mathlib/Combinatorics/Enumerative/Bell.lean [hunk 3]
```diff
@@ -104,20 +104,42 @@ theorem bell_mul_eq (m : Multiset ℕ) :
...
+    exact Nat.mul_pos (by simp [Nat.factorial_pos]) (by positivity)
+
+private theorem bell_cons_mul_count (m : Multiset ℕ) {a : ℕ} (ha : a ≠ 0) :
+    (a ::ₘ m).bell * (a ::ₘ m).count a = (m.sum + a).choose a * m.bell := by
+  let rest := ∏ j ∈ (m.toFinset.erase 0).erase a, (m.count j)!
+  have hrest : rest = ∏ j ∈ ((a ::ₘ m).toFinset.erase 0).erase a, ((a ::ₘ m).count j)! := by
+    refine Finset.prod_congr ?_ ?_
+    · grind [Multiset.toFinset_cons]
+    · intro _ hj
+      simp [Finset.mem_erase.mp hj]
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/Bell.lean]:
```suggestion
    congr! with j hj
    · grind [Multiset.toFinset_cons]
    · simp [Finset.mem_erase.mp hj]
```

File: Mathlib/Combinatorics/Enumerative/Bell.lean [hunk 4]
```diff
@@ -211,4 +227,81 @@ theorem bell_one : Nat.bell 1 = 1 := by
...
+
+/-- `Nat.bell n` is equal to the sum of `Multiset.bell m` over all multisets `m : Multiset ℕ` such
+that `m.sum = n`. -/
+theorem bell_eq_sum_partition (n : ℕ) : n.bell = ∑ p : n.Partition, p.parts.bell := by
+  refine Nat.strong_induction_on n ?_
+  rintro (_ | n) ih
+  · simp
+  rw [Nat.bell_succ]
+  calc
+  _ = ∑ i : Fin n.succ, ∑ q : (n - i).Partition, n.choose i * q.parts.bell := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/Bell.lean]: This should be
```suggestion
  _ = ∑ i \le n, ∑ q : (n - i).Partition, n.choose i * q.parts.bell := by
```
but I see `Nat.bell_succ` has a similarly problematic statement... Mind fixing it too if it isn't too hard?

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

File: Mathlib/Combinatorics/Enumerative/Bell.lean [hunk 5]
```diff
@@ -172,43 +191,117 @@ theorem uniformBell_eq_div (m : ℕ) {n : ℕ} (hn : n ≠ 0) :
...
+  simp [Nat.bell, this]
 
 @[simp]
 theorem bell_two : Nat.bell 2 = 2 := by
-  simp [Nat.bell]
+  have : Finset.Iic 1 = {0, 1} := Finset.eq_of_veq rfl
+  simp [Nat.bell, this]
+
+theorem bell_eq_sum_erase {n : ℕ} (p : (n + 1).Partition) :
+    ∑ a ∈ p.parts.toFinset, n.choose (a - 1) * (p.parts.erase a).bell = p.parts.bell := by
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/Enumerative/Bell.lean]: This name is backwards with respect to the statement (or vice versa)

File: Mathlib/Combinatorics/Enumerative/Bell.lean [hunk 6]
```diff
@@ -172,43 +191,117 @@ theorem uniformBell_eq_div (m : ℕ) {n : ℕ} (hn : n ≠ 0) :
...
+    left
+    simpa [smul_eq_mul, p.parts_sum] using (Finset.sum_multiset_count p.parts).symm
+
+private def partitionWithPartEquiv {n a : ℕ} (ha1 : 1 ≤ a) (ha : a ≤ n + 1) :
+    {p : (n + 1).Partition // a ∈ p.parts} ≃ (n + 1 - a).Partition where
+  toFun p := by
+    refine ⟨p.1.parts.erase a, ?_, ?_⟩
+    · intro _ hi
+      exact p.1.parts_pos (p.1.parts.erase_subset a hi)
+    · have hs : a + (p.1.parts.erase a).sum = n + 1 := by
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/Enumerative/Bell.lean]:
```suggestion
private def partitionWithPartEquiv {n a : ℕ} (ha1 : 1 ≤ a) (ha : a ≤ n) :
    {p : n.Partition // a ∈ p.parts} ≃ (n - a).Partition where
  toFun p := by
    refine ⟨p.1.parts.erase a, ?_, ?_⟩
    · intro _ hi
      exact p.1.parts_pos (p.1.parts.erase_subset a hi)
    · cases n
      · lia
      have hs : a + (p.1.parts.erase a).sum = n + 1 := by
```

File: Mathlib/Combinatorics/Enumerative/Bell.lean [hunk 7]
```diff
@@ -172,43 +191,110 @@ theorem uniformBell_eq_div (m : ℕ) {n : ℕ} (hn : n ≠ 0) :
...
+  toFun p := by
+    refine ⟨p.1.parts.erase a, ?_, ?_⟩
+    · intro _ hi
+      exact p.1.parts_pos (p.1.parts.erase_subset a hi)
+    · have hs : a + (p.1.parts.erase a).sum = n := by
+        simpa [p.1.parts_sum] using congrArg Multiset.sum (Multiset.cons_erase p.2)
+      lia
+  invFun q := ⟨⟨a ::ₘ q.parts, by grind, by simp [q.parts_sum, ha]⟩, by simp⟩
+  left_inv p := Subtype.ext <| Partition.ext <| cons_erase p.property
+  right_inv q := Partition.ext <| erase_cons_head a q.parts
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/Enumerative/Bell.lean]: This looks like a good definition to be public to me; perhaps it should move closer to where `Partition` is defined?

File: Mathlib/Combinatorics/Enumerative/Partition/Basic.lean [hunk 8]
```diff
@@ -138,6 +138,22 @@ def toFinsuppAntidiag {n : ℕ} (p : Partition n) : ℕ →₀ ℕ where
     suffices m ∈ p.parts → m ≠ 0 by simpa
     grind
 
+/-- If `1 ≤ a` and `a ≤ n`, partitions of `n` containing `a` as a part are equivalent to
+partitions of `n - a`. The forward map removes one occurrence of `a`, and the inverse adds `a` as
+a part. -/
+def partitionWithPartEquiv {n a : ℕ} (ha1 : 1 ≤ a) (ha : a ≤ n) :
```
Comment (wwylele) [inline Mathlib/Combinatorics/Enumerative/Partition/Basic.lean]: - This `def` is placed between `toFinsuppAntidiag` and its associated lemma `toFinsuppAntidiag_injective`. Could you move it somewhere, probably right before `toFinsuppAntidiag`, to avoid breaking the code flow?
 - Could you add associated simp lemma? The statement should look like
```
@[simp]
theorem partitionWithPartEquiv_apply_parts {n a : ℕ} (ha1 : 1 ≤ a) (ha : a ≤ n) (p : {p : n.Partition // a ∈ p.parts}) : 
    (partitionWithPartEquiv p).parts = p.1.parts.erase a := ...

@[simp]
theorem partitionWithPartEquiv_symm_apply_parts {n a : ℕ} (ha1 : 1 ≤ a) (ha : a ≤ n) (p : (n - a).Partition) : 
    (partitionWithPartEquiv.symm p).1.parts = a ::ₘ p.parts := ...
```
Before you write these manually, try `@[simps]` first to see if it correctly generates these.

**Review by wwylele — APPROVED** [review]

**Comment by faenuccio** [comment]
thanks

bors r+
